US07732455B2
Preparation of 1,3-dipropyl-8-(6-chloro-3-pyridyl)xanthine (1)
6-Chloronicotinoyl chloride, prepared from 6-hydroxynicotinic acid (1.44 g, 10.4 mmol), in CH2Cl2 (20 ml) was added dropwise to a solution of 5,6-diamino-1,3-dipropyluracil (1.81 g, 8 mmol) in dry pyridine (8.2 ml) maintained at 5° C. The reaction was warmed to room temperature and stirred for an additional 3 hours. Water (50 ml) was added to quench the reaction. The solvent was evaporated to afford a dark colored oil. The oil was refluxed for 2 h in 2N NaOH (20 ml). After cooling, the pH was carefully adjusted to 7 with concentrated HCl. A solid formed and was collected and washed with water (20 ml), ether (20 ml) and chloroform (20 ml) to provide an off-white solid (1.9 g). The product was used in the next step without further purification.

reactant | 6-Chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 6-hydroxynicotinic acid | 10.4 mmol, 1.44 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | 5,6-diamino-1,3-dipropyluracil | 8 mmol, 1.81 g | NC=1C(N(C(N(C1N)CCC)=O)CCC)=O | C10H18N4O2
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 8.2 ml | N1=CC=CC=C1 | C5H5N
solvent | NaOH | 2N, 20 ml | [OH-].[Na+]
solvent | Water | 50 ml | O | H2O
product | 1,3-dipropyl-8-(6-chloro-3-pyridyl)xanthine | 1.9 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C=1C=NC(=CC1)Cl)CCC | C16H18ClN5O2
